US04118587
3-(γ-Oxobutylamino)-4-phenoxy-5-sulfamylbenzoic acid
A mixture of 3-amino-4-phenoxy-5-sulfamylbenzoic acid (5 g) and methyl vinyl ketone (5 ml) in ethanol (100 ml) was stirred at reflux for 3 days. After cooling, the product 3-(γ-oxobutylamino)-4-phenoxy-5-sulfamylbenzoic acid was collected to give 5.05 g (82%) in two crops of colorless solid. An analytical sample from aq. acetone had m.p. 215°-215.5°; ir (Nujol) 3400, 3250, 1710, 1695, 1615, 1590, and 1570 cm-1 ; nmr (CDCl3 /d6 -DMSO/D2O-washed) 2.00 (s, CH3), 2.60 (t, CH2), 3.37 (t, CH2), 6.8-7.4 (m, C6H5), 7.60 (d, J=2, CH), and 7.93 (d, CH); mass spectrum was of decomposition products, 308 (100%).

reactant | 3-amino-4-phenoxy-5-sulfamylbenzoic acid | 5 g | NC=1C=C(C(=O)O)C=C(C1OC1=CC=CC=C1)S(N)(=O)=O | C13H12N2O5S
reactant | methyl vinyl ketone | 5 ml | C(=C)C(=O)C | C4H6O
reactant | acetone | CC(=O)C | C3H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 3-(γ-Oxobutylamino)-4-phenoxy-5-sulfamylbenzoic acid | O=C(CCNC=1C=C(C(=O)O)C=C(C1OC1=CC=CC=C1)S(N)(=O)=O)C | C17H18N2O6S
